US08008505B2
63.3 [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid
To a stirred solution of [rac]-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester (22 mg, 0.043 mmol) in MeOH (5 ml) was added NaOH (5.18 mg, 0.129 mmol) in water (2 ml) dropwise at 0° C. The reaction mixture was then stirred at rt for 14 hours. After the completion of the reaction (monitored through TLC), MeOH was concentrated in vacuo, diluted with H2O (7 ml) and the aqueous layer was acidified (pH ˜2-3) with 2 N HCl and then extracted with EtOAc (3×7 ml). Combined organic layers were washed with brine (8 ml) and finally dried over Na2SO4. Organic layer was distilled under reduced pressure to get off white solid (20 mg), which was purified by column chromatography [SiO2 (230-400 mesh), DCM:MeOH 98.0/2.0] to give the title compound (18 mg, 84.1%) as a off white solid. MS: m/e=495.0 [M+H±].

reactant | [rac]-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid methyl ester | 0.043 mmol, 22 mg | COC(C1=CC=C(C=C1)SCC(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C29H33ClN2O2S
reactant | NaOH | 0.129 mmol, 5.18 mg | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethylsulfanyl}-benzoic acid | 20 mg | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(CSC1=CC=C(C(=O)O)C=C1)C1CCCCC1 | C28H31ClN2O2S
